US04308199
Preparation of 4-hydroxyphenylthio cyclododecadiene
To the reactor of Example 1 was added 100.8 grams of 4-mercaptophenol and 100 ml toluene. While maintaining the reaction mixture at 40° C. 32.6 grams of 1,5,9-cyclododecatriene was added over a 20 minute period. The mixture was agitated for 24 hours and then stripped to a pot temperature of 220° C. and 11 mm. Hg. to yield 46 grams of product.

reactant | 4-mercaptophenol | 100.8 grams | SC1=CC=C(C=C1)O | C6H6OS
reactant | 1,5,9-cyclododecatriene | 32.6 grams | C1=CCCC=CCCC=CCC1 | C12H18
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4-hydroxyphenylthio cyclododecadiene | 46 grams | OC1=CC=C(CCCCCCCC1)SC1=CC=CC=C1 | C18H24OS
